US09376445B2
Citric acid monohydrate (10.39 g, 49.46 mmol) was added to a solution of 3-(benzhydrylidene-amino)-1-methyl-3-prop-2-ynyl-pyrrolidin-2-one (6.26 g, 19.79 mmol) (which may be prepared as described in Description 2) in THF (150 mL) and the reaction was stirred at room temperature for 18 hours. A colourless solid precipitated out. The solvent was evaporated to give a gummy white solid. This was trituated with Et2O and the solid was washed with further Et2O. The solid was suspended in water/MeOH and purified by SCX (70 g Silca), eluting with water/MeOH, MeOH and finally 0.5M NH3 in MeOH. Fractions containing product were evaporated to afford 3-amino-1-methyl-3-prop-2-ynyl-pyrrolidin-2-one (3.23 g, 21.223 mmol) as a pale yellow oil;

reactant | Citric acid monohydrate | 49.46 mmol, 10.39 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | 3-(benzhydrylidene-amino)-1-methyl-3-prop-2-ynyl-pyrrolidin-2-one | 19.79 mmol, 6.26 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1(C(N(CC1)C)=O)CC#C | C21H20N2O
reactant | Et2O | CCOCC | C4H10O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-amino-1-methyl-3-prop-2-ynyl-pyrrolidin-2-one | 21.223 mmol, 3.23 g | NC1(C(N(CC1)C)=O)CC#C | C8H12N2O
